US03960863
3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 2.2 g of 3-(2-chloroethyl)-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 4.5 g of 1-(m-chlorophenyl)piperazine and 25 ml of toluene was refluxed for 30 hours. After completion of the reaction, the reaction mixture was then treated in the same manner as in Example 10. The crude crystals thus obtained were recrystallized from a mixture of ethanol and n-hexane to give 1.5 g of the desired compound as pale yellow powders, m.p. 127° - 128°C.

reactant | 3-(2-chloroethyl)-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.2 g | ClCCC1=C(N=C2N(C1=O)C=C(C=C2)C)C | C12H13ClN2O
reactant | 1-(m-chlorophenyl)piperazine | 4.5 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,7-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 1.5 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C=C(C=C2)C)C | C22H25ClN4O
